US07977354B2
Stage A: ethyl 8-(2-methoxyphenyl)quinoline-3-carboxylate.
A solution of ethyl 8-bromoquinoline-3-carboxylate (2.01 g, 10 mmol), prepared as described in Patent WO 2001047891, 2-methoxyphenylboronic acid (2.79 g, 10 mmol), Pd(PPh3)4 (5% mol), K2CO3 (5 g) in DMF/water (3/1) is stirred at 50° C. for 12 hours. The reaction mixture is then pored on water (150 mL). The aqueous phase is extracted with ethyl acetate (3×100 mL). The combined organic layers are washed with water (3×200 mL). The organic phase is dried over magnesium sulfate and evaporated under vacuum to afford the title compound.

reactant | ethyl 8-bromoquinoline-3-carboxylate | 10 mmol, 2.01 g | BrC=1C=CC=C2C=C(C=NC12)C(=O)OCC | C12H10BrNO2
reactant | 2-methoxyphenylboronic acid | 10 mmol, 2.79 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF water | CN(C)C=O.O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 8-(2-methoxyphenyl)quinoline-3-carboxylate | COC1=C(C=CC=C1)C=1C=CC=C2C=C(C=NC12)C(=O)OCC | C19H17NO3
